US04416818
Preparation of 3-Carboethoxy-2-Oxazolidinone
A mixture of 2-oxazolidinone (9.0 g, 0.10 mole) and 25 ml (0.18 mole) of ethyl trichloroacetate were heated to 120° C. in an oil bath. A small amount (ca 50 mg) of 4-dimethylaminopyridine was added to the stirred solution, during which time vigorous reflux began. After removing most of the chloroform by a Dean-Stark trap, the dark solution was allowed to cool to room temperature. Bulb to bulb distillation at 105° C.-120° C. (0.05 mm) yielded 14.1 g (0.0887 mole, 89 percent yield) of the product as a clear liquid which solidified to a colorless solid (mp 40° C.-44° C.) on standing at room temperature. Spectral data confirmed its structure.

reactant | 2-oxazolidinone | 0.10 mole, 9.0 g | O1C(NCC1)=O | C3H5NO2
reactant | ethyl trichloroacetate | 0.18 mole, 25 ml | ClC(C(=O)OCC)(Cl)Cl | C4H5Cl3O2
catalyst | 4-dimethylaminopyridine | ca 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Carboethoxy-2-Oxazolidinone | 0.0887 mole, 14.1 g, 89 percent yield | C(=O)(OCC)N1C(OCC1)=O | C6H9NO4
